US07208513B2
A. 3-(6-Methoxy-2-naphthyl)-1H-indazole-5-carbonitrile
The title compound was prepared as described in Example 408 using 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.500 g, 1.6 mmol), in ethylene glycol dimethyl ether (30 mL), 6-methoxynaphthalene-2-boronic acid (0.395 g, 2.0 mmol), [1,1′-bis(diphenyl phosphino-ferrocene] complex with dichloromethane (1:1) (0.133 g, 0.16 mmol) and potassium phosphate (3.5 g, 16.3 mmol). Solvent was removed using a rotary evaporator and purification of the residue by column chromatography (silica gel, 20% ethyl acetate/hexanes) gave a solid. Methanol (50 mL) and aqueous 6 N hydrochloric acid (50 mL) were added to the solid and the mixture was heated at 45° C. for 5 h. One half of the methanol was evaporated, water was added and the solid filtered and dried in a vacuum oven to afford the title compound (0.230 g, 47% yield over 2 steps): ES-MS (m/z) 300 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.6 mmol, 0.500 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 6-methoxynaphthalene-2-boronic acid | 2.0 mmol, 0.395 g | COC=1C=C2C=CC(=CC2=CC1)B(O)O | C11H11BO3
reactant | dichloromethane | 0.16 mmol, 0.133 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 16.3 mmol, 3.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 6 N, 50 mL | Cl | ClH
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | Methanol | 50 mL | CO | CH4O
product | 3-(6-Methoxy-2-naphthyl)-1H-indazole-5-carbonitrile | 0.230 g, 47% yield | COC=1C=C2C=CC(=CC2=CC1)C1=NNC2=CC=C(C=C12)C#N | C19H13N3O
